US04960778
STAGE B: 3-Methyl-6-{3-[4-(3-trifluoromethylphenyl)-1-piperazinyl]-1-hydroxypropyl}benzoxazolinone
0.01 mole of 3-methyl-6-{3-[4-(3-trifluoromethylphenyl)-1-piperazinyl]-1-oxopropyl}benzoxazolinone is dissolved in 200 cm3 of methanol in a 250-cm3 flask equipped with a magnetic stirrer. 0.02 mole of sodium borohydride is added very slowly and with stirring. Stirring is maintained for 4 hours at room temperature. The reaction medium is evaporated on a water bath under vacuum. The residue is taken up with water and extracted several times with chloroform. The extracts are filtered and evaporated to dryness on a water bath under vacuum. The product is recrystallized in ethanol.

reactant | 3-methyl-6-{3-[4-(3-trifluoromethylphenyl)-1-piperazinyl]-1-oxopropyl}benzoxazolinone | 0.01 mole | CN1C(OC2=C1C=CC(=C2)C(CCN2CCN(CC2)C2=CC(=CC=C2)C(F)(F)F)=O)=O | C22H22F3N3O3
reactant | sodium borohydride | 0.02 mole | [BH4-].[Na+]
solvent | methanol | 200 cm3 | CO | CH4O
product | 3-Methyl-6-{3-[4-(3-trifluoromethylphenyl)-1-piperazinyl]-1-hydroxypropyl}benzoxazolinone | CN1C(OC2=C1C=CC(=C2)C(CCN2CCN(CC2)C2=CC(=CC=C2)C(F)(F)F)O)=O | C22H24F3N3O3
